US06787651B2
Ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate
A solution of N-bromosuccinimide (7.83 g, 44.0 mmol) in N,N-dimethylformamide (30 mL) was added dropwise (40 min) to a cooled (0 ° C.) and stirred solution of ethyl 5-(benzyloxy)-1H-indole-2-carboxylate (10.0 g, 39.2 mmol) in N,N-dimethylformamide (20 mL). The cold bath was removed and stirring was continued for an additional 1.5 h. The reaction was poured over ice water (600 mL) and the resulting precipitate was collected by vacuum filtration. The precipitate was washed with water and dried to give 12.9 g (98%) of crude product. This material was used in the next reaction without further purification or analysis.

reactant | N-bromosuccinimide | 44.0 mmol, 7.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 5-(benzyloxy)-1H-indole-2-carboxylate | 39.2 mmol, 10.0 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-(benzyloxy)-3-bromo-1H-indole-2-carboxylate | 12.9 g, 98% | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)Br | C18H16BrNO3
